### PR TITLE
Weaker interface for neutral conversion

### PR DESCRIPTION
**Pull request by MevenBertrand**
This backports a change we had already on the branch with lists, which makes the generic interface for conversion weaker, by only demanding inclusion of neutral conversion in conversion at positive types. We pay the price in `Neutral`, because the proof for negative types is a bit more involved – we need to use η expansion –, but more "moral". It allows to remove a nasty proof that algorithmic neutral conversion in included in algorithmic conversion, which was using normalisation to basically do what is now done in the logical relation

### CODE REVIEW

File: theories/Normalisation.v [hunk 1]
```diff
@@ -213,147 +213,4 @@ Proof.
...
-  Import AlgorithmicTypingData.
-
-  Lemma var0_wk1_id {Γ A t} : t[tRel 0 .: @wk1 Γ A >> tRel] = t.
-  Proof. bsimpl. rewrite scons_eta'. now asimpl. Qed.
-
-  Lemma ne_conv_conv : forall (Γ : context) (A m n : term),
-    [Γ |-[de] A] ->
-    [Γ |-[de] m : A] ->
-    [Γ |-[al] m ~ n ▹ A] ->
-    [Γ |-[al] m ≅ n : A].
```
Comment (kyoDralliam) [inline theories/Normalisation.v:228]: What's happening with this lemma ? Is it not derivable anymore ? Or just not useful ?

File: theories/LogicalRelation/Neutral.v [hunk 2]
```diff
@@ -134,37 +135,133 @@ intros l Γ A ΠA0 ihdom ihcod; split.
...
+  assert [PolyRed.shpRed polyRed (wk1 dom) Hext | Γ,, dom ||- tRel 0 : dom⟨wk1 dom⟩]
+    by now eapply ihdom.
+  assert [Γ ,, dom |- cod].
+  {
+    replace cod with cod[tRel 0 .: @wk1 Γ dom >> tRel].
+    2: bsimpl; rewrite scons_eta'; now asimpl.
+    now eapply escape, polyRed.
+  }
+  assert (forall n Δ a (ρ : Δ ≤ Γ),
+      [|- Δ] -> [Γ |- n : A] -> [Δ |- a : dom⟨ρ⟩] -> [Δ |-[ ta ] tApp n⟨ρ⟩ a : cod[a .: ρ >> tRel]]) as Happ.
```
Comment (kyoDralliam) [inline theories/LogicalRelation/Neutral.v:163]: I feel like many of these lemmas should not be enclosed in this proof (they are probably used elsewhere, no ?)
But this can wait another clean-up of the repo and is not blocking.

File: theories/Normalisation.v (hunk 1 above)
Comment (MevenBertrand) [reply theories/Normalisation.v:228]: It is still derivable, but not useful any more, as we only need it when `A` is a positive type, in which case it is trivial by using the relevant constructor of algorithmic conversion. As explained above, I feel it is more "moral" that this consequence of normalisation is directly handled in the logrel, rather than after the fact.

**Review by kyoDralliam — APPROVED** [review]

File: theories/LogicalRelation/Neutral.v (hunk 2 above)
Comment (MevenBertrand) [reply theories/LogicalRelation/Neutral.v:163]: Do you think they are generic/useful enough to deserve to be singled out?
